US08304438B2
(b) 3-[4-(4-Fluoro-phenyl)-thiazol-2-yl]-acrylic Acid Tert-butyl Ester
2 g (10.57 mmol) of 4-(4-fluoro-phenyl)-thiazole-2-carbaldehyde and 4.177 g (11.09 mmol) of (tert-butoxycarbonylmethylene)triphenylphosphorane in 25 ml of THF were stirred at room temperature for 2 h. The reaction mixture was evaporated, and the residue was used in the subsequent step without purification.

reactant | 4-(4-fluoro-phenyl)-thiazole-2-carbaldehyde | 10.57 mmol, 2 g | FC1=CC=C(C=C1)C=1N=C(SC1)C=O | C10H6FNOS
reactant | (tert-butoxycarbonylmethylene)triphenylphosphorane | 11.09 mmol, 4.177 g | C(C)(C)(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-[4-(4-Fluoro-phenyl)-thiazol-2-yl]-acrylic Acid Tert-butyl Ester | C(C)(C)(C)OC(C=CC=1SC=C(N1)C1=CC=C(C=C1)F)=O | C16H16FNO2S
